US05077304
5.0 g of 6-chloro-2,4-diisopropyl-3-nitropyridine are dissolved in 100 ml of tetrahydrofuran and, after the addition of 2.75 g of triethylamine and 7.5 g of 5% palladium/carbon catalyst, hydrogenated under normal pressure at from +20° C. to +25° C. The reaction mixture is filtered over diatomaceous earth and the filtrate is concentrated. The residue is purified by column chromatography on silica gel (eluant: ethyl acetate/hexane 1:3). 2,4-Diisopropyl-3-aminopyridine is obtained in the form of a waxlike solid, m.p. 35°-39° C.

reactant | 6-chloro-2,4-diisopropyl-3-nitropyridine | 5.0 g | ClC1=CC(=C(C(=N1)C(C)C)[N+](=O)[O-])C(C)C | C11H15ClN2O2
reactant | triethylamine | 2.75 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 7.5 g | [Pd] | Pd
product | 2,4-Diisopropyl-3-aminopyridine | C(C)(C)C1=NC=CC(=C1N)C(C)C | C11H18N2
